US04812462
A solution of 7.8 g 3-(2-(1-adamantyl)ethyl)histidine.2HCl in 100 mL 1N HCl is treated with 5 mL 36% formaldehyde, stirring 30 min at 25° C. followed by 90 min at reflux. Evaporation gives 1-(2-(1-adamantyl)ethyl)-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]-pyridine-6-carboxylic acid dihydrochloride as a white solid. NMR (D2O) 8.90 (s,1H,2-Im).

reactant | 3-(2-(1-adamantyl)ethyl)histidine | 7.8 g | C12(CC3CC(CC(C1)C3)C2)CCN2C=NC=C2C[C@H](N)C(=O)O | C18H27N3O2
reactant | formaldehyde | 5 mL | C=O | CH2O
reactant | HCl | 1N, 100 mL | Cl | ClH
product | 1-(2-(1-adamantyl)ethyl)-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]-pyridine-6-carboxylic acid dihydrochloride | Cl.Cl.C12(CC3CC(CC(C1)C3)C2)CCN2C=NC=3CNC(CC32)C(=O)O | InChI=1S/C19H27N3O2.2ClH/c23-18(24)15-6-17-16(10-20-15)21-11-22(17)2-1-19-7-12-3-13(8-19)5-14(4-12)9-19;;/h11-15,20H,1-10H2,(H,23,24);2*1H
